US07612101B2
To a stirred solution of 4-picoline (2.5 g, 26.8 mmol) in acetonitrile (50 ml) was added isopropyl iodide (9.1 g, 53.6 mmol) drop wise, the resultant mixture was heated at 90° C. for 24 hours. After cooling the solvent was evaporated to give a red solid which on trituration with ethyl acetate yielded 1-isopropyl-4-methyl pyridinium iodide (6.01 g, 85%) as a cream solid, 1H NMR D6-DMSO δ?1.6 (d, 6H, J=7), 2.6 (s, 3H), 4.95 (m, 1H), 8.0 (d, 2H J=6), 9.05 (d, 2H J=6).

reactant | 4-picoline | 26.8 mmol, 2.5 g | N1=CC=C(C=C1)C | C6H7N
reactant | isopropyl iodide | 53.6 mmol, 9.1 g | C(C)(C)I | C3H7I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-isopropyl-4-methyl pyridinium iodide | 6.01 g, 85% | [I-].C(C)(C)[N+]1=CC=C(C=C1)C | InChI=1S/C9H14N.HI/c1-8(2)10-6-4-9(3)5-7-10;/h4-8H,1-3H3;1H/q+1;/p-1
